US07365085B2
i) 1-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-phenyl)-cyclopropanecarboxylic acid hydrochloride salt
To a solution of 1(3-{3-[2-Chloro-3-trifluoromethyl-benzyl-(2,2-diphenyl-ethyl)-amino]-propoxy}-phenyl)-cyclopropanecarboxylic acid ethyl ester (65 mg, 0.12 mmol) in THF (1 ml) and methanol (4 ml) was added lithium hydroxide (2N aq., 1 ml). The reaction was stirred at RT overnight. Acidic water was added to neutralize the solution and the organic products were extracted into ethyl acetate, washed with brine, dried (MgSO4), and evaporated. The residue was purified by preparative HPLC (YMC CombiPrep ODS-A, 50×20 mm, 20 mL/min, A: acetonitrile B: water, A: 10 to 90% during 10 min, UV detection at 254 nm) to give 17 mg (27%) of the title compound as an oil. The oil was dissolved in methanol, and HCl in diethyl ether was added, the solvents were evaporated to form the hydrochloride salt as a solid. MS (ESI) 608.0 [M+H]+.

reactant | 1(3-{3-[2-Chloro-3-trifluoromethyl-benzyl-(2,2-diphenyl-ethyl)-amino]-propoxy}-phenyl)-cyclopropanecarboxylic acid ethyl ester | 0.12 mmol, 65 mg | C(C)OC(=O)C1(CC1)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl | C37H37ClF3NO3
reactant | lithium hydroxide | 2N, 1 ml | [OH-].[Li+]
reactant | water | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | 1-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-phenyl)-cyclopropanecarboxylic acid hydrochloride salt | 17 mg, 27% | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)C2(CC2)C(=O)O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C35H33ClF3NO3.ClH/c36-32-27(14-7-17-31(32)35(37,38)39)23-40(24-30(25-10-3-1-4-11-25)26-12-5-2-6-13-26)20-9-21-43-29-16-8-15-28(22-29)34(18-19-34)33(41)42;/h1-8,10-17,22,30H,9,18-21,23-24H2,(H,41,42);1H
